US06992092B2
2-(6-Amino-5-ethoxy-pyridin-3-yl)-2-hydroxy-propionic acid ethyl ester
A mixture of 2-(6-nitro-5-ethoxy-pyridin-3-yl)-2-hydroxy-propionic acid ethyl ester (1.3 g), ammonium formate (1.5 g), and 10% Pd/C (100 mg) was stirred in a 1:1 mixture of THF/methanol overnight. The reaction mixture was filtered through diatomaceous earth, and the filtrate evaporated to yield an oil. The oil was dissolved in EtOAc, washed with water and brine, and the organic layer separated and dried over magnesium sulfate. Evaporation furnished 863 mg of the title compound. LC/MS+=255.

reactant | 2-(6-nitro-5-ethoxy-pyridin-3-yl)-2-hydroxy-propionic acid ethyl ester | 1.3 g | C(C)OC(C(C)(O)C=1C=NC(=C(C1)OCC)[N+](=O)[O-])=O | C12H16N2O6
reactant | ammonium formate | 1.5 g | C(=O)[O-].[NH4+]
reactant | THF methanol | C1CCOC1.CO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 2-(6-Amino-5-ethoxy-pyridin-3-yl)-2-hydroxy-propionic acid ethyl ester | 863 mg | C(C)OC(C(C)(O)C=1C=NC(=C(C1)OCC)N)=O | C12H18N2O4
